US06627629B2
Part D. Preparation of (R)-5-(1-Phenyl-ethylamino)-3,6-dihydro-2H-pyran-4-carboxylic acid ethyl ester
A solution of 3-oxo-tetrahydro-pyran-4-carboxylic acid ethyl ester (3.03 g, 17.6 mmol), R-(+)-α-methylbenzylamine (2.35 g, 19.4 mmol) and p-toluenesulfonic acid hydrate (67 mg, 230 μmol) in benzene (60 mL) was heated at reflux under a Dean-Stark trap for 16 h . The cooled mixture was concentrated in vacuo to provide the product as a yellow oily semisolid (5.05 g), used without further purification. 1H NMR (300 mHz, CDCl3) δ8.97 (bd, J=7.3 Hz, 1H), 7.3-7.2 (m, 5H), 4.41 (m, 1H), 4.30 (d, J=16.1 Hz, 1H), 4.18 (q, J=7.3 Hz, 2H), 3.91 (d, J=16.1 Hz, 1H), 3.64 (m, 2H), 2.34 (m, 2H), 1.48 (d, J=6.5 Hz, 3H), 1.30 (t, J=7.3 Hz, 3H).

reactant | 3-oxo-tetrahydro-pyran-4-carboxylic acid ethyl ester | 17.6 mmol, 3.03 g | C(C)OC(=O)C1C(COCC1)=O | C8H12O4
reactant | R-(+)-α-methylbenzylamine | 19.4 mmol, 2.35 g | C[C@H](C1=CC=CC=C1)N | C8H11N
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid hydrate | 230 μmol, 67 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (R)-5-(1-Phenyl-ethylamino)-3,6-dihydro-2H-pyran-4-carboxylic acid ethyl ester | 5.05 g | C(C)OC(=O)C=1CCOCC1N[C@H](C)C1=CC=CC=C1 | C16H21NO3
